US07504411B2
To a solution of (S)-1,4-di(t-butoxycarbonyl)-2-(4-(N,N-dimethylamino) phenyl)piperazine (556 mg, 1.37 mmol) in dichloromethane (4 mL) was added 4 N hydrogen chloride in ethyl acetate (4 mL). After stirring for 8.5 h, the white precipitate was collected and dried in vacuo to afford (S)-2-(4-(N,N-dimethylamino) phenyl)piperazine trihydrochloride (413 mg, 96%) as white crystals.

reactant | (S)-1,4-di(t-butoxycarbonyl)-2-(4-(N,N-dimethylamino) phenyl)piperazine | 1.37 mmol, 556 mg | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N(C)C | C22H35N3O4
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-(4-(N,N-dimethylamino) phenyl)piperazine trihydrochloride | 413 mg, 96% | Cl.Cl.Cl.CN(C)C1=CC=C(C=C1)[C@@H]1NCCNC1 | InChI=1S/C12H19N3.3ClH/c1-15(2)11-5-3-10(4-6-11)12-9-13-7-8-14-12;;;/h3-6,12-14H,7-9H2,1-2H3;3*1H/t12-;;;/m1.../s1
